US05773469
4-Hydroxyphenylethylamine (21.4 mmol) and pyridine (24.6 mmol) is combined under nitrogen at 0° C. Trifluoroacetic anhydride (24.6 mmol) are added slowly and reaction proceeds at 0° C. for one hour and then room temperature for 18 hours. The solvent is evaporated in vacuo and the residue is dissolved in CH2Cl2 and washed with successive portions of 1.0 N HCl and H2O. The organic layer is dried and evaporated in vacuo to obtain N-[2-(4-hydroxyphenyl)ethyl]trifluoroacetamide as a white solid (86% yield).

reactant | 4-Hydroxyphenylethylamine | 21.4 mmol | OC1=CC=C(C=C1)CCN | C8H11NO
reactant | pyridine | 24.6 mmol | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 24.6 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-[2-(4-hydroxyphenyl)ethyl]trifluoroacetamide | 86% yield | OC1=CC=C(C=C1)CCNC(C(F)(F)F)=O | C10H10F3NO2
